US08633173B2
(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-fluoro-benzyl)-amine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (2.00 g, 8.60 mmol), and 2-fluorobenzylamine (1.11 mL, 9.72 mmol) in a manner analogous to Example 2d. Product isolated as an off-white solid, (1.45 g. 61%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.11 (d, J=6.9 Hz, 1H), 7.39-7.26 (m, 2H), 7.23-7.10 (m, 3H), 6.98 (t, J=14.0, 7.3 Hz, 1H), 6.43 (d, J=8.0 Hz, 1H), 4.53 (d, J=6.1 Hz, 2H).

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 8.60 mmol, 2.00 g | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-fluorobenzylamine | 9.72 mmol, 1.11 mL | FC1=C(CN)C=CC=C1 | C7H8FN
product | (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-fluoro-benzyl)-amine | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)F)=N1 | C13H10ClFN4
